US07432284B2
A solution of 3a-butyl-7-methoxy-3,3a,4,5-tetrahydro-2H-cyclopenta[α]naphthalen-2-one (598 mg, 2.2 mmol) in anhydrous CH2Cl2 (22 mL) was placed under a N2 atmosphere, cooled in a dry ice-acetone bath (−78° C.), and stirred while 1M BBr3 in CH2Cl2 (6.6 mL, 6.6 mmol) was added dropwise over 4 minutes. After stirring at −78° C. for 5 minutes, the cooling bath was removed and the mixture was stirred at room temperature for 160 minutes. Additional 1M BBr3 in CH2Cl2 (1.4 mL) was added and the mixture was stirred at room temperature for 60 minutes. The mixture was diluted with EtOAc, washed with 1N HCl, 5% NaHCO3, water, and brine, dried over MgSO4, filtered, and evaporated under vacuum to give an orange-red solid. The crude product was purified by Biotage™ (Charlottesville, Va.) flash chromatography on a 40S (4×7 cm) silica gel column, eluting successively with 5:1, 2:1, and 1:1 hexane-EtOAc followed by EtOAc. The product-containing fractions were evaporated under vacuum to afford 3a-butyl-7-hydroxy-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one as a solid.

reactant | 3a-butyl-7-methoxy-3,3a,4,5-tetrahydro-2H-cyclopenta[α]naphthalen-2-one | 2.2 mmol, 598 mg | C(CCC)C12C(C3=CC=C(C=C3CC1)OC)=CC(C2)=O | C18H22O2
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 22 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 6.6 mmol, 6.6 mL | C(Cl)Cl | CH2Cl2
product | 3a-butyl-7-hydroxy-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one | C(CCC)C12C(C3=CC=C(C=C3CC1)O)=CC(C2)=O | C17H20O2
